spice
* Component definitions
V1 8 0 DC Vs    * Voltage source Vs

Q1 7 8 6 QNPN   * NPN transistor Q1 (collector base emitter)
R1 7 6 RL1      * Resistor RL1
Q2 6 5 3 QNPN   * NPN transistor Q2 (collector base emitter)
R2 6 0 RL2      * Resistor RL2
Q3 3 2 4 QNPN   * NPN transistor Q3 (collector base emitter)
R3 2 0 ZL       * Resistor ZL

* Feedback network
R4 3 4 RF       * Resistor RF
R5 4 0 RE1      * Resistor RE1
R6 3 4 RE2      * Resistor RE2

* Resistors and connections
R7 8 7 Rs       * Resistor Rs

.model QNPN NPN
.end